US07989633B2
Cyclopentyl 5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 93.1 mg (0.93 mmol) of 2,4-pentanedione, 89.9 mg (0.53 mmol) of cyclopentyl 3-aminocrotonate and 31.9 mg (0.53 mmol) of acetic acid in 5 ml of 2-propanol and heated to reflux under argon for 10 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 84 mg (37.5% of theory) of the title compound are obtained as a yellow solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | 2,4-pentanedione | 0.93 mmol, 93.1 mg | CC(CC(C)=O)=O | C5H8O2
reactant | cyclopentyl 3-aminocrotonate | 0.53 mmol, 89.9 mg | N\C(=C/C(=O)OC1CCCC1)\C | C9H15NO2
reactant | acetic acid | 0.53 mmol, 31.9 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | Cyclopentyl 5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(C)(=O)C=1C(C(=C(NC1C)C)C(=O)OC1CCCC1)C=1C=CC=C2C(C=C(OC12)C)=O | C25H27NO5
